US08835422B2
Preparation of Intermediate A2: 2-(2,5-difluorophenyl)oxazol-5(4H)-one
A 100 mL round-bottomed flask was charged with 2-(2,5-difluorobenzamido)acetic acid (1.7 g, 7.9 mmol) and acetic anhydride (7.46 mL, 79 mmol). The resulting suspension was heated to 100° C. for 20 minutes (during which time the solids had all dissolved) and cooled to room temperature. The mixture was concentrated in vacuo and azeotroped with toluene and dried under vacuum for a weekend. This yielded an orange-colored oil that was used without further purification. An analytical sample was obtained by trituration with tert-butyl methyl ether. 1H-NMR (CDCl3) δ 7.34 (m, 1H), 7.19-7.04 (m, 2H), 4.38 (d, 2H).

reactant | 2-(2,5-difluorobenzamido)acetic acid | 7.9 mmol, 1.7 g | FC1=C(C(=O)NCC(=O)O)C=C(C=C1)F | C9H7F2NO3
reactant | acetic anhydride | 79 mmol, 7.46 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2,5-difluorophenyl)oxazol-5(4H)-one | FC1=C(C=C(C=C1)F)C=1OC(CN1)=O | C9H5F2NO2
